US08258149B2
To a suspension of berberine hydrochloride (500 mg, 1.3 mmol) in anhydrous diethyl ether (100 mL) at 0° C. was added vinylmagnesium bromide solution (1.0 M in tetrahydrofuran, 13 mL, 13 mmol) dropwise. After stirring at 0° C. for 2 h, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 9,10-dimethoxy-8-vinyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (480 mg, 98%). LC/MS m/e calcd for C22H21NO4 (M+H)+: 364.32, observed: 364.1; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.74-2.84 (m, 2 H) 3.16-3.24 (m, 2 H) 3.75 (s, 3 H) 3.77 (s, 3 H) 4.97 (d, J=10.11 Hz, 1 H) 5.06 (dd, J=4.55, 2.53 Hz, 2 H) 5.85-5.93 (m, 1 H) 5.95 (s, 1 H) 6.00 (d, J=5.31 Hz, 2 H) 6.72 (d, J=8.34 Hz, 1 H) 6.77 (s, 1 H) 6.86 (d, J=8.34 Hz, 1 H) 7.25 (s, 1 H).

reactant | berberine hydrochloride | 1.3 mmol, 500 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | vinylmagnesium bromide | 13 mmol, 1.0 M, 13 mL | C(=C)[Mg]Br
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 9,10-dimethoxy-8-vinyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 480 mg, 98% | COC1=C(C=CC=2C=C3N(CCC4=CC5=C(C=C34)OCO5)C(C12)C=C)OC | C22H21NO4
